US06740647B1
f) 5-Aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide Hydrochloride
Hydrogen chloride was passed to saturation at 5° C. to a solution of 4.7 g (not more-than 18.4 mmol) of 5-aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide in 600 ml of ethyl acetate, during which process a white precipitate formed. The mixture was stirred overnight at room temperature and concentrated on a rotary evaporator, diethyl ether was added, the mixture was concentrated and again taken up in diethyl ether, and the precipitate was filtered off and dried. This gave 3.7 g of a white solid which still contained ammonium chloride. 1H NMR (270 MHz, DMSO-d6): δ=3.95 (s, 3H), 4.3 (bs, 2H), 7.6 (bs, 1H), 7.75 (bs, 1H), 8.7-8.9 (m, 2H).

reactant | Hydrogen chloride | Cl | ClH
reactant | 5-aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide | NCC1=NC(=NN1C)C(=O)N | C5H9N5O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 5-Aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide Hydrochloride | Cl.NCC1=NC(=NN1C)C(=O)N | InChI=1S/C5H9N5O.ClH/c1-10-3(2-6)8-5(9-10)4(7)11;/h2,6H2,1H3,(H2,7,11);1H
